US08685986B2
4-(c) 2-{4-[Bis(tert-butoxycarbonyl)aminomethyl]phenyl}thiazole
To a solution of 4-(thiazol-2-yl)benzyl bromide (1.25 g, 4.92 mmol) obtained in Reference Example 4-(b) in N,N-dimethylformamide (16 ml) were added di-tert-butyl iminodicarboxylate (1.28 g, 5.89 mmol) and potassium carbonate (1.35 g, 9.76 mmol), followed by stirring at room temperature for 3 hours. After completion of the reaction, water was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=2:1 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (2.05 g) substantially quantitatively as a colorless oil.

reactant | 4-(thiazol-2-yl)benzyl bromide | 4.92 mmol, 1.25 g | S1C(=NC=C1)C1=CC=C(CBr)C=C1 | C10H8BrNS
reactant | di-tert-butyl iminodicarboxylate | 5.89 mmol, 1.28 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | potassium carbonate | 9.76 mmol, 1.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 2-{4-[Bis(tert-butoxycarbonyl)aminomethyl]phenyl}thiazole | 2.05 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1SC=CN1 | C20H26N2O4S
